Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
levofloxacin
 
Attending: ___.
 
Chief Complaint:
hypoxia/ respiratory distress
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with PMH of MS presenting to the ___ with respiratory 
distress. Per pt's caregiver about 2 days ago the patient 
developed fever to 102 and increased oral secretions. Seen by NP 
at home who diagnosed pt with viral illness and prescribed cough 
medicine. This past night the patient became hypoxic to ___ on 
O2 monitor at home and required supplemental oxygen up to 4L NC 
to maintain sats of 95%. He had worsening lung sounds per 
caregiver and was sent to ___ for eval. Of note pt has history of 
pneumonias. No chest pain, no abdominal pain, no N/V/D. No ___ 
edema of calf pain. No hx of DVT or PE.  
 In the ___, initial vitals: 99.8 119 116/89 16 94% Nasal 
Cannula.  
 - Exam notable for having trouble coughing due to his MS. 
___ bilaterally, No calf tenderness, Abd soft, NTND.  
 - Labs were notable for normal CBC and chemistries, lactate 2, 
and UA not suggestive of infection. Flu A+.  
 - Imaging: CXR with low lung volumes with streaky bibasilar 
airspace opacities, possibly atelectasis.  
 - Patient was given: He was initially given levofloxacin, but 
per ___ report, developed a localized skin reaction, and was 
transtioned to vanc/cefepime to cover for HCAP. He also received 
Tamiflu and 1L NS.  
 He triggered for hypoxia to the ___ in the setting of a choking 
spell, and required frequent suctioning in the ___. He was 
admitted to FICU for persistent tachycardia, pulm toilet, needs 
aggressive RN care, deemed not stable for floor.  

 
Past Medical History:
1. Primary Progressive Multiple Sclerosis: Onset: ___, 
Diagnosis: ___ Flare History: ___: rapidly progressive 
weakness/ ataxia/ incontinence. Currently on Copaxone.  
 2. Fall with several vertebral fractures in ___  
 3. status post CCY  
 4. history of cocaine use  

 
Social History:
___
Family History:
As above, patient did not know his father, and mother died of 
AIDS in her ___.  He has two sisters and one brother by the same 
mother and father, ages in ___ and ___.  He also has one half 
sister by a different father.  All are healthy.  Extended family 
unknown.
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
=======================
Vitals: Temp 98.4, HR 122, BP 142/50, RR 16, O2 sat 94% 1L NC.  
 GENERAL: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, dry mucous membranes, oropharynx clear 
 
 NECK: supple, JVP not elevated, no LAD  
 LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
 ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly. PEG tube in 
place; clean, dry and intact.  
 EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 SKIN: no excoriations, breakdown, rashes or lesions  
NEURO: contractures of 4 ___, minimally verbal, but interactive 

 
Pertinent Results:
ADMISSION LABS: 
===============
___ 08:02AM BLOOD WBC-9.3 RBC-5.11 Hgb-15.0 Hct-45.9 MCV-90 
MCH-29.4 MCHC-32.7 RDW-14.6 RDWSD-47.7* Plt ___
___ 08:02AM BLOOD Neuts-68.7 ___ Monos-6.8 Eos-1.8 
Baso-0.8 Im ___ AbsNeut-6.22* AbsLymp-1.91 AbsMono-0.61 
AbsEos-0.16 AbsBaso-0.07
___ 08:02AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-130* UreaN-15 Creat-0.7 Na-138 
K-4.2 Cl-104 HCO3-22 AnGap-16
___ 07:58AM BLOOD Lactate-2.0
___ 08:14AM URINE Color-Yellow Appear-Hazy Sp ___
___ 08:14AM URINE Blood-NEG Nitrite-POS Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 08:14AM URINE RBC-1 WBC-2 Bacteri-FEW Yeast-NONE Epi-<1
___ 08:14AM URINE Mucous-RARE

DISCHARGE LABS: 
===============

PERTINENT IMAGING/STUDIES:
==========================

___ CXR (Portable): 

FINDINGS:  
  
Lung volumes are low.  Patient is markedly scoliotic, convex to 
the right.  Heart size is normal.  Mediastinal and hilar 
contours are unremarkable.  Crowding of bronchovascular 
structures is present without overt pulmonary edema.  Streaky 
opacities in the lung bases may reflect areas of atelectasis.  
No pleural effusion or pneumothorax is identified. 
  
IMPRESSION:  
  
Low lung volumes with streaky bibasilar airspace opacities, 
possibly 
atelectasis. 

MICROBIOLOGY: 
=============

___ Blood Culture x 2: pending

___ Urine Culture: 

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH FECAL
      CONTAMINATION. 

___ MRSA Screen: pending 
___ 06:46AM BLOOD WBC-9.5 RBC-4.86 Hgb-14.3 Hct-43.6 MCV-90 
MCH-29.4 MCHC-32.8 RDW-14.6 RDWSD-48.0* Plt ___
___ 06:46AM BLOOD Glucose-132* UreaN-10 Creat-0.7 Na-139 
K-4.5 Cl-103 HCO3-25 AnGap-16
 
Brief Hospital Course:
Mr. ___ is a ___ with history of primary progressive MS,
presenting with hypoxic respiratory distress in the setting of
influenza.

# Hypoxic Respiratory Distress: Influenza A+, patient with
productive cough and thick secretions which required frequent
suction in MICU, had slowed down by report prior to transfer to
med/surg floor.  Sputum culture reportedly sent but no results
are pending in the computer.  MICU felt that superimposed 
bacterial infection
unlikely given no leukocytosis.  He was given Tamiflu and his
secretions improved.  Received one dose atbx (cefepime, vanc) in
___ which were not continued in the MICU due to low suspicion for
infection.  Now no atbx in > 48 hrs, has defervesced on
oseltamivir. As he was at high risk for mucus plugging, he was 
evaluated for suctioning every 4 hours but secretions improved.  
His home transdermal scopalomine patch was continued.  He was 
started on tamiflu and should continue a 10 day course given ICU 
admission:  ___.  His lung exam demonstrated wheezes, so 
he was given nebulizers which he has access to at home.  advised 
___ caregiver that he is still at risk for bacterial 
superinfection and so if he develops worsening fever or dyspnea, 
or hypoxia, should go to ___ or if mild call PCP for possible 
antibiotic prescription.  

# Sinus Tachycardia: secondary to underlying infectious process
associated with poor PO intake. He has no history of PE, though
is sedentary. Baseline heart rates are in the 90's and low
100's. restarted tube feeds and free water ___.  Received at 
least 4L IVF during admission with good urine output. 

# Primary Progressive Multiple Sclerosis:
Continued home med regimen: baclofen, amitriptyline and 
scopolamine.  Glatiramir to be continued when he returns home.  
Outpt f/u already arranged.
.
#hematuria-after foley insertion/removal. U/a without suggestion 
of infection. Improved prior to discharge. Good urine outpt 
without signs of obstruction. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 25 mg PO BID 
2. Baclofen 20 mg PO QID 
3. ClonazePAM 1 mg PO DAILY 
4. Scopolamine Patch 1 PTCH TD ONCE 
5. Ascorbic Acid ___ mg PO DAILY 
6. Vitamin D ___ UNIT PO DAILY 
7. methanamine hippurate
8. glatiramir 40 mg/ml subq three times per week

 
Discharge Medications:
1. Amitriptyline 25 mg PO BID 
2. Ascorbic Acid ___ mg PO DAILY 
3. Baclofen 20 mg PO QID 
4. ClonazePAM 1 mg PO DAILY 
5. Scopolamine Patch 1 PTCH TD ONCE 
6. Vitamin D ___ UNIT PO DAILY 
7. Bisacodyl 20 mg PR QHS:PRN constipation 
already taking at home 
8. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
prescribed by NP as outpatient 
9. OSELTAMivir 75 mg PO Q12H Duration: 10 Days 
RX *oseltamivir [Tamiflu] 75 mg 1 capsule(s) by mouth twice a 
day Disp #*11 Capsule Refills:*0
10. Ipratropium-Albuterol Neb 1 NEB NEB Q6H:PRN sob/wheeze 
RX *ipratropium-albuterol 0.5 mg-3 mg (2.5 mg base)/3 mL 1 
nebulizer every 6 hours Disp #*30 Ampule Refills:*0
11. nebulizer machine
nebulizer machine
dx: multiple sclerosis, influenza
Use as direct with nebulizer 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
- hypoxemic respiratory failure
- influenza A infection

 
Discharge Condition:
Discharge condition:  fair.  Mental status:  answers 
appropriately to 'how are you', and answers occasionally to yes 
or no questions or questions requiring one word answers when 
presented in ___.  Tracks with eyes. 
Nonambulatory, bedbound

 
Discharge Instructions:
Mr. ___,

You were admitted to ___ with influenza (the flu) causing 
difficulty breathing and fevers.  You were started on Tamiflu, 
an antiflu medication.  Your breathing improved as did your 
fevers.  You should take 10 days of this medication.  You are at 
risk for bacterial superinfection, so if you start to have 
worsening fevers or shortness of breath, you should call your 
PCP or go to the emergency room as you may need antibiotics.

You are being prescribed  medication to help keep your airways 
open.  You should schedule a follow up appt with your PCP or her 
NP for within the next 2 weeks.
 
Followup Instructions:
___